US04565819
(2S)-1-{N-[2-((1RS)-1-ethoxycarbonylethylthio)-(1RS)-1-ethoxycarbonylethyl]-(S)-alanyl}-2-carboxyperhydroindole
1 g (4.17 m mols) of (2S)-1-[(S)-alanyl]-2-carboxyperhydroindole, prepared as described in Example 3, Step F, and 4.72 g (19 m mols) of ethyl [(1RS)-1-ethoxycarbonylethylthio]-pyruvate are dissolved in 50 ml of anhydrous ethanol in the presence of 15 g of molecular sieve 4 Å. After 45 minutes' stirring at room temperature, 0.25 g of sodium cyanoborohydride in solution in 2.25 ml of anhydrous ethanol are added within 6 hours.

reactant | (2S)-1-[(S)-alanyl]-2-carboxyperhydroindole | 1 g | N[C@@H](C)C(=O)N1[C@@H](CC2CCCCC12)C(=O)O | C12H20N2O3
reactant | ethyl [(1RS)-1-ethoxycarbonylethylthio]-pyruvate | 4.72 g | C(C)OC(=O)C(C)SCC(C(=O)OCC)=O | C10H16O5S
reactant | sodium cyanoborohydride | 0.25 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 2.25 ml | C(C)O | C2H6O
product | (2S)-1-{N-[2-((1RS)-1-ethoxycarbonylethylthio)-(1RS)-1-ethoxycarbonylethyl]-(S)-alanyl}-2-carboxyperhydroindole | C(C)OC(=O)C(C)SCC(C(=O)OCC)N[C@@H](C)C(=O)N1[C@@H](CC2CCCCC12)C(=O)O | C22H36N2O7S
